US08754079B2
33.2 4-[2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
0.620 ml sodium hydroxide solution (2M) was added to 0.110 g 4-[2-(4,4-difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (cpd. 33.1) in 4 ml THF/MeOH (1/1). An additional aliquot of sodium hydroxide solution was added when the reaction mixture was stirred at rt overnight. After further 6 hours at rt the mixture was concentrated, the resulting aq. layer was adjusted to pH 4-5 with aq. 2 M aq.HCl and stirred under cooling for 30 minutes. Then the mixture was filtered, the filtercake was washed with water and dried.

reactant | sodium hydroxide | 2M, 0.620 ml | [OH-].[Na+]
reactant | 4-[2-(4,4-difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 0.110 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CCC(CC2)(F)F)S1)C | C21H20F3N3O3S
solvent | THF MeOH | 4 ml | C1CCOC1.CO
product | 4-[2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1(CCC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)F | C20H18F3N3O3S
